US04585789
4-(4-Chlorophenyl)-5-(3-hydroxypropyl)-2-oxotetrahydro-3-furancarboxylic acid (640 mg) was dissolved in a solution (5 ml) prepared from sodium acetate (105 mg), acetic acid (4 ml), formalin (2.92 ml) and diethylamine (1 ml), and the solution was heated on a water bath (100° C.) for 30 minutes. The reaction mixture was poured into ice water (20 ml) and extracted with ether. The extract was washed with 5% aqueous sodium hydroxide and water and dried over magnesium sulfate. The solvent was then distilled off. The residue was subjected to silical gel column chromatography, elution being carried out with chloroform to give 4-(4-chlorophenyl)-5-(3-hydroxypropyl)-3-methylenetetrahydro-2-furanone (512 mg) as a colorless oil.

reactant | 4-(4-Chlorophenyl)-5-(3-hydroxypropyl)-2-oxotetrahydro-3-furancarboxylic acid | 640 mg | ClC1=CC=C(C=C1)C1C(C(OC1CCCO)=O)C(=O)O | C14H15ClO5
reactant | sodium acetate | 105 mg | C(C)(=O)[O-].[Na+]
reactant | formalin | 2.92 ml | C=O | CH2O
reactant | diethylamine | 1 ml | C(C)NCC | C4H11N
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 4-(4-chlorophenyl)-5-(3-hydroxypropyl)-3-methylenetetrahydro-2-furanone | 512 mg | ClC1=CC=C(C=C1)C1C(C(OC1CCCO)=O)=C | C14H15ClO3
